US04876253
5.2 g (0.037 mol) of methyliodide are added dropwise to a solution of 10.0 g (0.033 mol) of 1-(4-methoxyphenyl)-3-(2,2-dimethylpropyl)-1,3,5-triazine-2,4,6-trione in 100 ml of absolute acetonitrile and 9 g (0.066 mol) of potassium carbonate at room temperature. The reaction mixture is boiled under reflux for 5 hours. After cooling the solid constituents are separated off and the mother liquor is concentrated under reduced pressure. The residue obtained after stripping off the solvent is ground with cold water for purification. The resulting crystals are filtered off with suction and dried. 10.0 g (95% of theory) of 1-(4-methoxyphenyl)-3-(2,2-dimethylpropyl)-5-methyl-1,3,5-triazine-2,4,6-trione are obtained in this manner in the form of crystals of melting point 134° C., IR:1685 cm-1. The substances listed by way of their formulae in the following Table 1 are also prepared by the method just described:

reactant | methyliodide | 0.037 mol, 5.2 g | CI | CH3I
reactant | 1-(4-methoxyphenyl)-3-(2,2-dimethylpropyl)-1,3,5-triazine-2,4,6-trione | 0.033 mol, 10.0 g | COC1=CC=C(C=C1)N1C(N(C(NC1=O)=O)CC(C)(C)C)=O | C15H19N3O4
reactant | potassium carbonate | 0.066 mol, 9 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 1-(4-methoxyphenyl)-3-(2,2-dimethylpropyl)-5-methyl-1,3,5-triazine-2,4,6-trione | 10.0 g, 95% | COC1=CC=C(C=C1)N1C(N(C(N(C1=O)C)=O)CC(C)(C)C)=O | C16H21N3O4
